US04477447
Sodium iodide (4.07 g) was added to a stirred solution of 2,3-di-n-octyloxy-1-propyl p-toluenesulfonate (860 mg) in acetone (14 ml) at room temperature and heated under reflux for 11 hours. The resultant mixture was evaporated under reduced pressure, and the residue was dissolved in a mixture of water (20 ml) and diethyl ether (10 ml). The aqueous solution was separated and extracted with diethyl ether, and then the organic layer and the extract were combined. The organic solution was washed with a saturated aqueous solution of sodium chloride twice, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure to give oil (620 mg) of 2,3-di-n-octyloxy-1-propyl iodide.

reactant | Sodium iodide | 4.07 g | [I-].[Na+]
reactant | 2,3-di-n-octyloxy-1-propyl p-toluenesulfonate | 860 mg | C1(=CC=C(C=C1)S(=O)(=O)OCC(COCCCCCCCC)OCCCCCCCC)C | C26H46O5S
solvent | acetone | 14 ml | CC(=O)C | C3H6O
product | 2,3-di-n-octyloxy-1-propyl iodide | 620 mg | C(CCCCCCC)OC(CI)COCCCCCCCC | C19H39IO2
